US07612099B2
N-(2-{2-[(2-Hydroxy-5-oxo-3-phenyl-cydopent-1-enyl)-(1H-imidazol-2-yl)-methyl]-1H-indol-3-yl}-ethyl)-acetamide
Using general procedure C, 3-hydroxy-4-phenyl-cyclopent-2-enone (Lit. 17) was reacted with 1H-imidazole-2-carbaldehyde and N-[2-(1H-indol-3-yl)-ethyl]-acetamide to give the title compound as pale brown solid. MS: 455.0 ([M+H]+).

reactant | 3-hydroxy-4-phenyl-cyclopent-2-enone | OC1=CC(CC1C1=CC=CC=C1)=O | C11H10O2
reactant | 1H-imidazole-2-carbaldehyde | N1C(=NC=C1)C=O | C4H4N2O
reactant | N-[2-(1H-indol-3-yl)-ethyl]-acetamide | N1C=C(C2=CC=CC=C12)CCNC(C)=O | C12H14N2O
product | N-(2-{2-[(2-Hydroxy-5-oxo-3-phenyl-cydopent-1-enyl)-(1H-imidazol-2-yl)-methyl]-1H-indol-3-yl}-ethyl)-acetamide | OC1=C(C(CC1C1=CC=CC=C1)=O)C(C=1NC2=CC=CC=C2C1CCNC(C)=O)C=1NC=CN1 | C27H26N4O3
